US07906517B2
Ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate (980 mg) is dissolved in N,N-dimethylformamide (10 ml), and thereto is added sodium hydride (60%) (91 mg) under ice-cooling, and the mixture is stirred for 30 minutes and thereto is added ethyl iodide (182 μl) and the mixture is stirred at room temperature overnight. Thereto are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamate (425 mg). MS (m/z): 673/675 [M+H]+

reactant | Ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate | 980 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)NC(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C24H18BrF9N4O2
reactant | sodium hydride | 91 mg | [H-].[Na+]
reactant | ethyl iodide | 182 μl | C(C)I | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamate | 425 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)N(C(OCC)=O)CC)C=C(C1)C(F)(F)F)(F)F | C26H22BrF9N4O2
